Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of present illness:</I> Mr. ___ is a very pleasant ___ 
yo man with metastatic melanoma to the brain recently started on 
on CTLA4 antibiody therapy who presents with diarrhea.
.
The diarrhea began about a week after first receiving the drug, 
and hit has progressively gotten worse. He is now having ___ 
watery brown BMs per day. he has had bloody diarrhea on a few 
occasions, but most of the time it is light brown in color. He 
was recently admitted to a hospital in ___ with similar 
complaints. He underwent colonoscopy, which reportedly 
demonstarted "mucositis."
.
He was started on prednisone as an outpt, but he was not taking 
it appropriately.
.
He currently denies lightheadedness or dizziness. he denies 
nausea or vomiting. He reports mild bloating in between bowel 
movements. he denies abdominal pain.

 
Past Medical History:
Past medical/surgical history:</I>
Metastatic melanoma (see below)
HTN
DM2
.
<I>Past oncologic history:</I>
Mr. ___ presented in ___ with a 5-mm 
malignant melanoma of stage IIC (T4, N0, M0, ___ level IV), at 
which time he had an excision and then he received interferon 
for 11 months. Four months later, he went in for follow up at 
the ___ and he developed a new right preauricular mass at the 
excision site and underwent reexcision as well as parotidectomy 
at the ___, followed by involved-field radiation with 5000 cGy in 
___ in ___. In ___, he developed lesions 
on his lips, right leg, left occiput, and left temple. All the 
lesions were excised and pathology revealed incompletely excised 
metastatic melanoma. He additionally underwent a CT scan of the 
torso on ___ which revealed lung, liver, soft 
tissue, bone, and adrenal metastasis. On ___, he 
underwent a CT scan of the brain that showed three lesions, two 
15 mm lesions in the right and left frontal lobes with 
associated edema, but no evidence of shift and a third lesion in 
the right frontoparietal lobe.

 
Social History:
___
Family History:
(per OMR) His father had melanoma with extensive disease on his 
nose which required essentially entire excision of his nose and 
then he believes he developed metastatic disease.  He died of an 
MI at age ___.  His mother is ___ and still alive.  He has no 
siblings.  His children are all healthy.

 
Physical Exam:
Vitals: 97.5 110/63 66 20 97%RA 
General: Awake, alert, NAD, pleasant, appropriate, cooperative.  

HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions 
noted in OP, melanoma lesions on lower lip and neck  
Neck: supple, no significant JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or 
organomegaly noted  
Extremities: No edema, 2+ radial, DP pulses b/l

 
Pertinent Results:
___ 04:19PM   PLT SMR-NORMAL PLT COUNT-429
___ 04:19PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-OCCASIONAL
___ 04:19PM   NEUTS-71* BANDS-10* LYMPHS-8* MONOS-8 EOS-2 
BASOS-0 ___ METAS-1* MYELOS-0 NUC RBCS-1*
___ 04:19PM   WBC-7.6# RBC-3.51* HGB-11.1* HCT-32.4* MCV-92 
MCH-31.6 MCHC-34.3 RDW-14.8
___ 04:19PM   ALBUMIN-4.1 CALCIUM-9.4 PHOSPHATE-4.2 
MAGNESIUM-2.0
___ 04:19PM   ALT(SGPT)-14 AST(SGOT)-11 LD(___)-175 ALK 
PHOS-150* TOT BILI-0.3
___ 04:19PM   GLUCOSE-396* UREA N-31* CREAT-1.3* SODIUM-134 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-23 ANION GAP-15
___ 06:30AM BLOOD WBC-3.7* RBC-3.03* Hgb-9.6* Hct-28.0* 
MCV-92 MCH-31.8 MCHC-34.5 RDW-15.5 Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-72 UreaN-24* Creat-0.9 Na-142 
K-4.1 Cl-106 HCO3-28 AnGap-12
___ 06:30AM BLOOD Calcium-8.1* Phos-3.3 Mg-2.3
___ 04:19PM BLOOD ALT-14 AST-11 LD(___)-175 AlkPhos-150* 
TotBili-0.3
.
___ 10:59 pm STOOL     CONSISTENCY: SOFT      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 
.
MR head: Most of the previously noted metastatic lesions have 
decreased in size. No 
new lesions are identified. 

 
Brief Hospital Course:
A+P: 
___ yo man with metastatic melanoma on CTLA4 antibody presents 
with profuse diarrhea.
.
## Diarrhea: likely ___ autoimmune colitis as a result of CTLA4 
antiboday therapy, as this is a well known complication. In 
addition it appears that Mr ___ was not taking his home 
regimen of 80mg of Prednisone daily as advised. However, an 
infectious cause was considered. A stool culture and cdiff was 
negative. Mr ___ was given aggressive IV hydration. His 
diarhea significantly improved from ___ BMs a day to 5 formed 
BMs by discharge. This improvement was achieved with loperamide 
4mg Q6H, Octreotide q8h, and methylprednisolone IV 60mg bid. He 
was discharged on loperamide 4mg q6h and prednisone PO 80mg 
daily. His BMs should continue to be monitored and should 
consider infliximab if refractory to steroids 

- add back atenolol, holding ACE for now until, volume status 
stable
.
## Metastatic melanoma: Pt reports great improvement in skin 
lesions since start of CTLA4 treatment. Further management per 
primary oncologist
.
## Anemia: Hct droped upon admission but remained stable around 
29. The drop was likely dilutional. Underlining anemia ___ CA vs 
chemo. Further management as outpatient.

## DM2: Held PO hypoglycemics. Mr ___ glucose was difficult 
to control given steroids. He was controled with lantus 30U qhs 
and HISS. He was given DM teaching and discharged on Lantus qhs 
and ISS.
.
## HTN: Hypertensive meds were originally held ___ to 
hypovolemia but we restarted atenolol, and ACE prior to 
discharge.
.
## Code status: FULL CODE
.

 
Medications on Admission:
Medications on admission:</I>
ATENOLOL 25 daily
DOXAZOSIN 2 mg daily
GEMFIBROZIL 600 mg bid
LISINOPRIL 10 mg daily
METFORMIN 500 bid
SIMVASTATIN 10 daily
ASPIRIN 81 daily (not taking)
.
<I>Allergies:</I> Penicillin causes hives

 
Discharge Medications:
1. Loperamide 2 mg Capsule Sig: Two (2) Capsule PO Q6H (every 6 
hours).
Disp:*240 Capsule(s)* Refills:*2*
2. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
5. Prednisone 10 mg Tablet Sig: Eight (8) Tablet PO DAILY 
(Daily).
Disp:*240 Tablet(s)* Refills:*2*
6. Doxazosin 2 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO once a day.  

8. Insulin Glargine 100 unit/mL Solution Sig: Twenty (20) units 
Subcutaneous at bedtime.
Disp:*600 units* Refills:*2*
9. Insulin Regular Human 300 unit/3 mL Insulin Pen Sig: One (1) 
sliding scale Subcutaneous four times a day: Measure glucose 
levels before meals; See attached sliding scale for dosing 
instructions.
Disp:*1 pen* Refills:*2*
10. Insulin Syringe 1 mL 29 x ___  Syringe Sig: One (1) months 
supply Miscellaneous four times a day.
Disp:*1 months supply* Refills:*2*
11. Alcohol Pads     Pads, Medicated Sig: One (1) months supply 
Topical four times a day.
Disp:*1 months supply* Refills:*2*
12. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Autoimmune colitis
Diabetes mellitus, steroid-induced
.
Secondary:
Metastatic melanoma
Hypertension

 
Discharge Condition:
Good, tolerating POs, afebrile, ambulatory

 
Discharge Instructions:
You were admitted with severe diarrhea due to the CTLA4 therapy 
for your cancer. The diarrhea significantly improved with 
steroids and anti-diarrheal agents. You are being discharged 
home with steroids that you should continue to take as directed 
by your Oncologists.
.
Due to the steroids, your blood sugars have been very elevated 
and you will need insulin therapy for your diabetes. You will be 
given a one-a-day injection of Lantus and an insulin sliding 
scale to be used with meals.
.
Please take all medications as prescribed.
New medications: Lantus, Regular insulin, Prednisone, 
Loperamide, omeprazole
Discontinued medications: Metformin
.
Call your doctor or return to the ED immediately if you 
experience worsening chest pain, shortness of breath, nausea, 
vomiting, abdominal pain, sweating, fevers, chills, bleeding, or 
other concerning symptoms.
.
In particular, if your diarrhea returns call ___ or Dr. 
___ as your medications may need to be adjusted further.
 
Followup Instructions:
___